US09238639B2
B) Ethyl 2-methyl-5-(trifluoromethyl)furan-3-carboxylate
To a mixture of ethyl 2-acetyl-5,5,5-trifluoro-4-oxopentanoate (1.37 g) and toluene (5 mL) was added TsOH monohydrate (0.109 g) at room temperature, and the mixture was refluxed with azeotropic removal of water by Dean-Stark apparatus for 14 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (0.730 g).

reactant | ethyl 2-acetyl-5,5,5-trifluoro-4-oxopentanoate | 1.37 g | C(C)(=O)C(C(=O)OCC)CC(C(F)(F)F)=O | C9H11F3O4
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Ethyl 2-methyl-5-(trifluoromethyl)furan-3-carboxylate | 0.730 g | CC=1OC(=CC1C(=O)OCC)C(F)(F)F | C9H9F3O3
